US08629146B2
Tert-butyl 5,9-dioxo-1-(2,2,2-trifluoro-acetyl)-1,4-diaza-spiro[5.5]undecane-4-carboxylate
84.7 g of di-tert-butyldicarbonate in 90 ml acetonitrile are added dropwise to a mixture of 90 g of 1-(2,2,2-trifluoro-acetyl)-1,4-diaza-spiro[5.5]undecane-5,9-dione and 1.98 g of dimethylaminopyridine in 180 ml of acetonitrile at RT within 75 min. After 60 min 990 ml of water are added and seeded. After 60 min the precipitate is filtered off and washed with 180 ml of water. After drying at 50° C. in vacuo 113.8 g of product is obtained.

reactant | di-tert-butyldicarbonate | 84.7 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1-(2,2,2-trifluoro-acetyl)-1,4-diaza-spiro[5.5]undecane-5,9-dione | 90 g | FC(C(=O)N1CCNC(C12CCC(CC2)=O)=O)(F)F | C11H13F3N2O3
reactant | dimethylaminopyridine | 1.98 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | water | 990 ml | O | H2O
solvent | acetonitrile | 90 ml | C(C)#N | C2H3N
solvent | acetonitrile | 180 ml | C(C)#N | C2H3N
product | Tert-butyl 5,9-dioxo-1-(2,2,2-trifluoro-acetyl)-1,4-diaza-spiro[5.5]undecane-4-carboxylate | O=C1N(CCN(C12CCC(CC2)=O)C(C(F)(F)F)=O)C(=O)OC(C)(C)C | C16H21F3N2O5
